US04423241
Preparation of 2-Chloro-6-methylbenzylideneaminooxyacetic Acid
A warm solution of 1.5 gm. (0.01 mole) of 6-chloro-o-tolualdehyde in 15 ml. of ethanol was stirred into a solution of 1.1 gm. (0.010 equiv.) of carboxymethoxylamine hemihydrochloride and 1.3 gm. (0.016 equivs.) of anhyd. sodium acetate in 15 ml. water. After heating a half hour on the steam bath, the reaction mixture was cooled and adjusted to pH 8 with 5% aqueous sodium hydroxide. The mixture was extracted with ether, and the ether extract was discarded. The alkaline-aqueous phase was then adjusted to pH 5 with hydrochloric acid and was evaporated to 25 ml. volume. It was then acidified to pH 1.5-2.0 with cooling in ice bath. The solid was removed by filtration, was washed with cold water, and was dried in air to obtain 1.5 gm. (68%) of crude product melting at 121°-6° C. Recrystallization from aqueous-ethanol yielded 1.4 gm. of product melting at 124°-7° C. (dried at 65° C. in vacuo).

reactant | 6-chloro-o-tolualdehyde | 0.01 mole | ClC=1C=CC=C(C1C)C=O | C8H7ClO
reactant | carboxymethoxylamine hemihydrochloride | 0.010 equiv. | Cl.C(=O)(O)CON.C(=O)(O)CON
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-Chloro-6-methylbenzylideneaminooxyacetic Acid | ClC(C(=O)O)ON=CC1=CC=CC=C1C | C10H10ClNO3
